US06855722B2
a) 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-hexanoic acid ethyl ester
To a solution of 2-[3-(1H-indol-5-yl)-propyl]-[1,8]naphthyridine (0.18 g, 0.62 mmol) in DMF (2 mL) was added sodium hydride (30.0 mg, 1.24 mmol) at room temperature. After stirring for 15 minutes, 3-bromo-hexanoic acid ethyl ester (276 mg, 1.24 mmol) was added. The reaction mixture was stirred overnight and quenched with water. The crude product was extracted with methylene chloride, washed with brine, and purified via column chromatography with silica gel (ethyl acetate/hexane:1:1), to give the title product (17% yield). 1H NMR (CDCl3) δ 9.08 (dd, J=1.7, 4.0 Hz, 1H), 8.14 (m, 1H), 8.06 (m, 1H), 7.32-7.44 (m, 4H), 7.05-7.12 (m, 2H), 6.45 (d, J=3.2 Hz, 1H), 4.81 (m, 1H), 3.99 (m, 2H), 3.08 (m, 2H), 2.83 (m, 4H), 2.22 (m, 2H), 1.90 (m, 2H), 1.20 (m, 2H), 1.07 (m, 3H), 0.87 (m, 3H). Mass Spectrum (LCMS, ESI) calculated for C27H32N3O2 430.3 (M+H); found 430.3.

reactant | 2-[3-(1H-indol-5-yl)-propyl]-[1,8]naphthyridine | 0.62 mmol, 0.18 g | N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1 | C19H17N3
reactant | sodium hydride | 1.24 mmol, 30.0 mg | [H-].[Na+]
reactant | 3-bromo-hexanoic acid ethyl ester | 1.24 mmol, 276 mg | C(C)OC(CC(CCC)Br)=O | C8H15BrO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-hexanoic acid ethyl ester | 17% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)=O | C27H31N3O2
